US04612318
3-Phenyl-1-methyl-4-cyclohexyl-5-pyrazolamine
It is obtained by following essentially the procedure of example 1, reacting 1-phenyl-3-methyl-5-pyrazolamine with cyclohexanone (1:2, molar ratio) at a temperature of about 45° C. for about 8 hours. M.p. 212°-214° C.

reactant | 1-phenyl-3-methyl-5-pyrazolamine | C1(=CC=CC=C1)N1N=C(C=C1N)C | C10H11N3
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 3-Phenyl-1-methyl-4-cyclohexyl-5-pyrazolamine | C1(=CC=CC=C1)C1=NN(C(=C1C1CCCCC1)N)C | C16H21N3
